US06693202B1
6-Dimethylamino-1-hexanol (8.80 g, 60.6 mmol) was dissolved in 2/1 mixture of THF/DMF (150 mL) and the solution was cooled in an ice/water bath. Sodium hydride (3.25 g, 80.8 mmol, 60% in oil ) was added. After 40 min., 2-methoxybenzyl chloride (6.28 g, 40.4 mmol) was added and the solution was allowed to warm to room temperature over 1 h. After 3 h, the reaction was quenched by the addition of 1M NaHSO4. Tetrahydrofuran was removed in vacuo, and the solution was washed with EtOAc. The aqueous phase was basified with 3M NaOH and extracted with ether. The combined ether phases were dried over K2CO3, filtered, and the product was crystallized by the addition of 4M HCl/dioxane to give O-(2-methoxybenzyl)-6-dimethylaminohexanol (10.4 g) as a white solid.

reactant | 6-Dimethylamino-1-hexanol | 60.6 mmol, 8.80 g | CN(CCCCCCO)C | C8H19NO
reactant | Sodium hydride | 80.8 mmol, 3.25 g | [H-].[Na+]
reactant | 2-methoxybenzyl chloride | 40.4 mmol, 6.28 g | COC1=C(CCl)C=CC=C1 | C8H9ClO
solvent | THF DMF | 150 mL | C1CCOC1.CN(C)C=O
product | O-(2-methoxybenzyl)-6-dimethylaminohexanol | 10.4 g | COC1=C(COCCCCCCN(C)C)C=CC=C1 | C16H27NO2
